US06262074B1
Step 3: 3-Amino-4-methylsulfonylbenzoic acid
0.447 mol of 3-nitro-4-methylsulfonylbenzoic acid was reduced with hydrogen by employing 100 g of Raney nickel in 2.5 l of methanol. The mixture was then heated to reflux and filtered off hot with suction. The filtrate was concentrated.

reactant | 3-nitro-4-methylsulfonylbenzoic acid | 0.447 mol | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1S(=O)(=O)C | C8H7NO6S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 100 g | [Ni] | Ni
solvent | methanol | 2.5 l | CO | CH4O
product | 3-Amino-4-methylsulfonylbenzoic acid | NC=1C=C(C(=O)O)C=CC1S(=O)(=O)C | C8H9NO4S
